US04096264
2-(Methoxycarbonylamino) 6-(p-aminophenylthio) imidazo [1,2-a] pyridine
A suspension of 0.130 gms. of 2-(methoxycarbonylamino) 6-(p-nitrophenylthio) imidazo [1,2-a] pyridine in 30 ml. of glacial acetic acid is reduced at 40 psi. of hydrogen with 0.130 gm. of 5% palladium on carbon. When the uptake of hydrogen is complete, the catalyst is removed by filtration and the filtrate is evaporated to dryness in vacuo. The residue is stirred with saturated qqueous sodium bicarbonate and the resultant solids are collected by filtration, washed with water and dried in vacuo. The product melts 120°-175° C. Mass spectral data confirms the molecular ion of the product.

reactant | 2-(methoxycarbonylamino) 6-(p-nitrophenylthio) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=C(C=C2)[N+](=O)[O-])C1 | C15H12N4O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(Methoxycarbonylamino) 6-(p-aminophenylthio) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=C(C=C2)N)C1 | C15H14N4O2S
